### PR TITLE
[Merged by Bors] - feat: compute the integral of sqrt (1 - x ^ 2)

### PR DESCRIPTION
**Pull request by xroblot**
We prove 
```lean
theorem integral_sqrt_one_sub_sq : ∫ x in (-1 : ℝ)..1, sqrt (1 - x ^ 2) = π / 2
```
which will in turn be used to compute the area of the disc and then the volume of the unit complex ball in #6907 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean [hunk 1]
```diff
@@ -741,6 +741,19 @@ theorem integral_cos_sq : ∫ x in a..b, cos x ^ 2 = (cos b * sin b - cos a * si
   by field_simp [integral_cos_pow, add_sub_assoc]
 #align integral_cos_sq integral_cos_sq
 
+theorem integral_sqrt_one_sub_sq : ∫ x in (-1 : ℝ)..1, sqrt (↑1 - x ^ 2) = π / 2 :=
+  calc
+    _ = ∫ x in (-(π / 2))..(π / 2), sqrt (↑1 - sin x ^ 2) * cos x := by
+          rw [show ↑(-1) = sin (-(π / 2)) by { rw [sin_neg, sin_pi_div_two] }]
+          nth_rewrite 2 [← sin_pi_div_two]
+          exact (integral_comp_mul_deriv (fun x _ => hasDerivAt_sin x) continuousOn_cos
+            (by continuity)).symm
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Integrals.lean:750]: I think this is somewhat more readable in two steps:
```suggestion
    _ = ∫ x in sin (-(π / 2))..sin (π / 2), sqrt (↑1 - x ^ 2) := by
          rw [sin_neg, sin_pi_div_two]
    _ = ∫ x in (-(π / 2))..(π / 2), sqrt (↑1 - sin x ^ 2) * cos x :=
          (integral_comp_mul_deriv (fun x _ => hasDerivAt_sin x) continuousOn_cos
            (by continuity)).symm
```

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean [hunk 2]
```diff
@@ -741,6 +741,19 @@ theorem integral_cos_sq : ∫ x in a..b, cos x ^ 2 = (cos b * sin b - cos a * si
   by field_simp [integral_cos_pow, add_sub_assoc]
 #align integral_cos_sq integral_cos_sq
 
+theorem integral_sqrt_one_sub_sq : ∫ x in (-1 : ℝ)..1, sqrt (↑1 - x ^ 2) = π / 2 :=
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/SpecialFunctions/Integrals.lean:744]: It is quite surprising to me that when the `↑` is present, there's no coercion `ℕ → ℝ`, but there is if you remove the `↑`. I would use `(1 : ℝ)` for clarity, though

**Review by Ruben-VandeVelde — COMMENTED** [review]
I'd probably move this theorem to the end of the file, rather than putting it between two sections about trig integrals

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Integrals.lean:750]: Yes. you're right. Thanks!

File: Mathlib/Analysis/SpecialFunctions/Integrals.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Analysis/SpecialFunctions/Integrals.lean:744]: I put `↑` because that was what Lean suggested. However, you are right that putting `(1 : ℝ)` in the statement would make things more clear.

**Comment by xroblot** [comment]
> I'd probably move this theorem to the end of the file, rather than putting it between two sections about trig integrals

Yes, I thought about that but then I would have to add a new doc section since the last one is ` Integral of sin x ^ m * cos x ^ n` (maybe `Integral of misc. functions`?).  Another possibility is to leave it where it is and add a doctsring to explain why it's there.

**Comment by sgouezel** [comment]
How do this PR and the next one relate to `Archive/AreaOfACircle`?

**Comment by xroblot** [comment]
It is basically the same result and in fact some of the ideas of `AreaOfACircle` were used in #6907. The main difference is that the fact `volume {x : ℝ × ℝ : x.1 ^ 2 + x.2 ^2 < 1 } = NNReal.pi` is not explicitly stated in #6907 yet but that's probably going to change, see the discussion there.

**Comment by xroblot** [comment]
> > I'd probably move this theorem to the end of the file, rather than putting it between two sections about trig integrals
> 
> Yes, I thought about that but then I would have to add a new doc section since the last one is ` Integral of sin x ^ m * cos x ^ n` (maybe `Integral of misc. functions`?). Another possibility is to leave it where it is and add a docstring to explain why it's there.

In the end, I put the result in a new section at the end of the file.

**Review by jcommelin — APPROVED** [review]
Thanks :tada: Let's hope that in the future we can golf the proof to a 1-liner using some integration tactic.

bors merge
